US04684648
Ethyl 2-(2-bromo-4,5-difluorobenzoyl)-3-dimethylaminoacrylate (1.09 g) and 2-fluoro-4-methoxyaniline (0.51 g) are dissolved in benzene (10 ml), and the mixture is allowed to stand at room temperature for 2 hours. The reaction mixture is washed with diluted hydrochloric acid and saturated aqueous sodium chloride, and dried over sodium sulfate. After distilling off the solvent, the residue is dissolved in anhydrous dioxane (20 ml) and thereto is added 60% sodium hydride (0.14 g). The mixture is stirred at room temperature for one hour and further refluxed for one hour. After cooling, the reaction mixture is poured into saturated aqueous ammonium chloride under ice-cooling. The precipitated crystals are separated by filtration, washed with water, purified by silica gel column chromatography (solvent, dichloromethane:methanol=80:1), and then recrystallized from ethanol to give ethyl 6,7-difluoro-1-(2-fluoro-4-methoxyphenyl)-1,4-dihydro-4-oxoquinoline-3-carboxylate (0.59 g) as pale yellow needles, m.p. 170°-171° C.

reactant | Ethyl 2-(2-bromo-4,5-difluorobenzoyl)-3-dimethylaminoacrylate | 1.09 g | BrC1=C(C(=O)C(C(=O)OCC)=CN(C)C)C=C(C(=C1)F)F | C14H14BrF2NO3
reactant | 2-fluoro-4-methoxyaniline | 0.51 g | FC1=C(N)C=CC(=C1)OC | C7H8FNO
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | ethyl 6,7-difluoro-1-(2-fluoro-4-methoxyphenyl)-1,4-dihydro-4-oxoquinoline-3-carboxylate | 0.59 g | FC=1C=C2C(C(=CN(C2=CC1F)C1=C(C=C(C=C1)OC)F)C(=O)OCC)=O | C19H14F3NO4
